US06900216B2
Bromine (0.16 ml) was added dropwise at 0-5° C. over 5 minutes to a stirred solution of 3-(benzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole (0.8 g; prepared by basification of 1 g of the hydrochloride salt described in Example 2) in dichloromethane (50 ml), then the mixture was stirred at 0° C. for 10 minutes and at ambient temperature for 1.5 hours. The resulting solid was collected by filtration, washed with dichloromethane (30 ml) and dried in vacuo at 60° C. to give 3-(benzo[b]thiophen-4-yl)-2-bromo-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (1.28 g) as a pale yellow solid which was used without further purification.

reactant | Bromine | 0.16 ml | BrBr | Br2
reactant | 3-(benzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole | S1C2=C(C=C1)C(=CC=C2)C=2N1C(SC2)=NCC1 | C13H10N2S2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(benzo[b]thiophen-4-yl)-2-bromo-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 1.28 g | Br.S1C2=C(C=C1)C(=CC=C2)C=2N1C(SC2Br)=NCC1 | InChI=1S/C13H9BrN2S2.BrH/c14-12-11(16-6-5-15-13(16)18-12)9-2-1-3-10-8(9)4-7-17-10;/h1-4,7H,5-6H2;1H
